US03959475
1'-Benzyl-1,3-dihydro-6-fluoro-3-p-fluorophenylspiro[isobenzofuran-1,4'-piperidine]
By following the manipulative procedure described above in Example 45, 2-bromo-4,4'-difluorobenzhydryl methyl ether and 1-benzyl-4-piperidone are reacted to produce an oil.

reactant | 2-bromo-4,4'-difluorobenzhydryl methyl ether | COC(C1=C(C=C(C=C1)F)Br)C1=CC=C(C=C1)F | C14H11BrF2O
reactant | 1-benzyl-4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
product | 1'-Benzyl-1,3-dihydro-6-fluoro-3-p-fluorophenylspiro[isobenzofuran-1,4'-piperidine] | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=CC=C(C=C12)F)C1=CC=C(C=C1)F | C25H23F2NO
